US04171446
1-Acetyl-4-benzyloxy-6-methyl-indazole
The (3-acetamino-2,5-dimethyl-phenyl)-benzyl ether used as starting material in Example 2 is prepared from 2,5-dimethyl-3-nitrophenol by the following reactions:

reactant | (3-acetamino-2,5-dimethyl-phenyl)-benzyl ether | N(C(=O)C)C=1C(=C(C=C(C1)C)OCC1=CC=CC=C1)C | C17H19NO2
reactant | 2,5-dimethyl-3-nitrophenol | CC1=C(C=C(C=C1[N+](=O)[O-])C)O | C8H9NO3
product | 1-Acetyl-4-benzyloxy-6-methyl-indazole | C(C)(=O)N1N=CC2=C(C=C(C=C12)C)OCC1=CC=CC=C1 | C17H16N2O2
